US07893257B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone dihydrochloride salt
A 250 mL, three-neck flask fitted with a mechanical stirrer, addition funnel, thermocouple probe, and heating mantle was charged with (4-cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone (11.0 g, 0.034 mol, 1.0 eq) and ethanol (75 mL). The resulting solution was heated to 60° C. Concentrated hydrochloric acid (6.1 mL, 0.074 mol, 2.2 eq) was then added dropwise over 8 min. The reaction mixture was then heated at 60° C. for a further 10 min and then slowly cooled to 20° C. over 3 hrs. The resulting solid was collected by filtration, rinsed with pentane, and dried at 50° C. for 3 hrs in a vacuum oven to yield the title compound as a white solid.

reactant | (4-cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | 0.034 mol, 11.0 g, 1.0 eq | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H27N3O2
reactant | hydrochloric acid | 0.074 mol, 6.1 mL, 2.2 eq | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone dihydrochloride salt | Cl.Cl.C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | InChI=1S/C19H27N3O2.2ClH/c23-19(22-9-7-21(8-10-22)18-5-6-18)17-3-1-16(2-4-17)15-20-11-13-24-14-12-20;;/h1-4,18H,5-15H2;2*1H
